US08303844B2
8.0 g (31.2 mmol) of 7,8-difluoro-2-pentylchroman-6-ol are initially introduced in 75 ml of THF together with 6.75 g (37.4 mmol) of 1-(4-propylcyclohexyl)prop-2-yn-1-ol and 9.83 g (37.6 mmol) of triphenylphosphine, and 7.89 ml (40.6 mmol) of DIAD are added over the course of 30 min with ice-cooling. After 20 h at RT, semi-saturated sodium chloride solution is added, and the mixture is extracted a number of times with MTBE. The combined organic phases are washed with water and saturated sodium chloride solution, and the solution is dried using sodium sulfate. The residue remaining after removal of the solvents is purified by column chromatography (SiO2, n-pentane:MTBE=2:1), giving 7,8-difluoro-2-pentyl-6-[1-(4-propylcyclohexyl)prop-2-ynyloxy]chroman as a pale-brown oil.

reactant | 7,8-difluoro-2-pentylchroman-6-ol | 31.2 mmol, 8.0 g | FC1=C(C=C2CCC(OC2=C1F)CCCCC)O | C14H18F2O2
reactant | 1-(4-propylcyclohexyl)prop-2-yn-1-ol | 37.4 mmol, 6.75 g | C(CC)C1CCC(CC1)C(C#C)O | C12H20O
reactant | triphenylphosphine | 37.6 mmol, 9.83 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 40.6 mmol, 7.89 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | sodium chloride | [Cl-].[Na+]
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 7,8-difluoro-2-pentyl-6-[1-(4-propylcyclohexyl)prop-2-ynyloxy]chroman | FC1=C(C=C2CCC(OC2=C1F)CCCCC)OC(C#C)C1CCC(CC1)CCC | C26H36F2O2
